US08871782B2
tert-Butyl 2-{[2-ethyl-5-oxido-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate (wet from above) was slurried in dichloromethane (25 mL) and ammonium hydroxide (25 mL). p-Toluenesulfonyl chloride (0.810 g, 4.25 mmol) was added in one portion and the reaction was stirred for 16 hours. The layers were separated and the aqueous fraction was extracted with dichloromethane. The combined organic fractions were washed with water, then saturated aqueous sodium chloride. The organic fraction was dried over anhydrous sodium sulfate, filtered and concentrated. The material was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 2-20% CMA in chloroform) to afford 1.8 g of tert-butyl 2-{[4-amino-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate as a white foam. Recrystallization from acetonitrile of a small portion provided an analytical sample as a white solid, mp 200-201° C.

reactant | tert-Butyl 2-{[2-ethyl-5-oxido-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate | C(C)C=1N(C2=C(C=[N+](C=3C=C(C=CC23)OCCNC(OC(C)(C)C)=O)[O-])N1)CC1CCOCC1 | C25H34N4O5
reactant | p-Toluenesulfonyl chloride | 4.25 mmol, 0.810 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ammonium hydroxide | 25 mL | [OH-].[NH4+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | tert-butyl 2-{[4-amino-2-ethyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}ethylcarbamate | 1.8 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2CCOCC2)CC)OCCNC(OC(C)(C)C)=O | C25H35N5O4
